US07655671B2
Synthesis of 5β-benzyl-14β-(butyloxy)-4,5α-epoxy-3-hydroxy-17,17-dimethyl-6-oxomorphinanium-iodide (compound 45)
A solution of 5β-benzyl-14β-butoxy-4,5α-epoxy-3-hydroxy-17-methylmorphinan-6-one (0.32 g, 0.72 mmol) and methyl iodide (0.51 g, 3.58 mmol) in 10 ml of water-free acetonitrile was stirred under N2 at 40° C. (bath temperature) for 2 days and then evaporated down. The evaporation residue (0.41 g of brown oil) was purified using column chromatography (silica gel; CH2Cl2/MeOH 250:6). Yield: 0.22 g (54%) slightly beige crystals of the compound 45. Fp. 188-195° C.; MS (CI): 462 (M+); IR (KBr): 1729 (C═O) cm−1; 1H-NMR (DMSO-d6, δ in ppm): 9.49 (s, OH), 7.28-7.20 (m, 5 arom. H), 6.69 (d, 1 arom. H, J=8.2 Hz), 6.62 (d, 1 arom. H, J=8.2 Hz), 3.61 (s, CH3N+, axial), 3.23 (s, CH3N+, equatorial), 1.01 (t, 3H, C14-O(CH2)3CH3, J=7.0 Hz).

reactant | 5β-benzyl-14β-butoxy-4,5α-epoxy-3-hydroxy-17-methylmorphinan-6-one | 0.72 mmol, 0.32 g | C(C1=CC=CC=C1)[C@@]12[C@]34C=5C(=C(C=CC5C[C@H]([C@@]3(CCC1=O)OCCCC)N(CC4)C)O)O2 | C28H33NO4
reactant | methyl iodide | 3.58 mmol, 0.51 g | CI | CH3I
solvent | water | 10 ml | O | H2O
product | 5β-benzyl-14β-(butyloxy)-4,5α-epoxy-3-hydroxy-17,17-dimethyl-6-oxomorphinanium-iodide | [I-].C(C1=CC=CC=C1)[C@@]12[C@]34C=5C(=C(C=CC5C[C@H]([C@@]3(CCC1=O)OCCCC)[N+](CC4)(C)C)O)O2 | InChI=1S/C29H35NO4.HI/c1-4-5-17-33-28-14-13-24(32)29(19-20-9-7-6-8-10-20)27(28)15-16-30(2,3)23(28)18-21-11-12-22(31)26(34-29)25(21)27;/h6-12,23H,4-5,13-19H2,1-3H3;1H/t23-,27-,28-,29+;/m1./s1
